US07696240B2
6-Chloro-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 6-chloro-1H-indole-2-carboxylic acid ethyl ester was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a pale yellow solid. MS: 334.0 ([M−H]−).

reactant | 6-chloro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=CC=C2C1)Cl | C11H10ClNO2
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 6-Chloro-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | ClC1=CC=C2C=C(N(C2=C1)CC1=CC=CC2=CC=CC=C12)C(=O)O | C20H14ClNO2
